US04600715
202 mg of 3-ethoxycarbonyl-4-methoxymethyl-β-carboline-6-carboxylic acid is combined in 15 ml of ethanol and 5 ml of water with 206 mg of cesium carbonate in 1.5 ml of water and stirred until a clear solution is obtained. The solution is then evaporated to dryness, taken up in 10 ml of dimethylformamide, 0.14 ml of methyl iodide is added, and the mixture is agitated at room temperature for 3 hours. After evaporation, the mixture is distributed in methylene chloride/saturated sodium chloride solution. The organic phase is dried, filtered, concentrated, and chromatographed over silica gel with methylene chloride/ethanol=6:1 as the eluent. After recrystallization of the corresponding fractions from ethanol/hexane, 92 mg of 6-methoxycarbonyl-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester is obtained.

reactant | 3-ethoxycarbonyl-4-methoxymethyl-β-carboline-6-carboxylic acid | 202 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C(=O)O | C17H16N2O5
reactant | cesium carbonate | 206 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 6-methoxycarbonyl-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 92 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C(=O)OC | C18H18N2O5
